US07465742B2
3-Amino-4-thiophen-2-yl-5,6,7,8-tetrahydro-1-thia-7,9-diaza-cyclopenta[b]naphthalene-2-carboxylic acid amide (29)
To a suspension of 3-amino-2-carbamoyl-4-thiophen-2-yl-5,8-dihydro-6H-1-thia-7,9-diaza-cyclopenta[b]naphthalene-7-carboxylic acid tert-butyl ester (100 mg) in 10 ml of anhydrous methanol under argon 0.5 ml of acetyl chloride was added dropwise, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was neutralized with 7N ammonia in methanol and evaporated to dryness under vacuum. The residue was purified by silica gel column (chloroform/methanol, 30:1) to give a yellow solid. 1H-NMR (300 MHz, DMSO-d6): δ 7.88 (d, J=5.1 Hz, 1H), 7.28 (dd, J=3.6, 5.1 Hz, 1H), 7.16 (d, J=3.6 Hz, 1H), 7.01 (brs, 2H), 5.64 (brs, 2H), 4.84 (brs, 1H), 3.16 (s, 2H), 2.94 (m, 2H), 1.86 (m, 2H). ES MS m/z 331 (M+H)+, 329 (M−H)−.

reactant | 3-amino-2-carbamoyl-4-thiophen-2-yl-5,8-dihydro-6H-1-thia-7,9-diaza-cyclopenta[b]naphthalene-7-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CCC=2C(=C3C(=NC2C1)SC(=C3N)C(N)=O)C=3SC=CC3 | C20H22N4O3S2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | ammonia | 7N | N | H3N
solvent | methanol | 10 ml | CO | CH4O
product | 3-Amino-4-thiophen-2-yl-5,6,7,8-tetrahydro-1-thia-7,9-diaza-cyclopenta[b]naphthalene-2-carboxylic acid amide | NC1=C(SC2=NC=3CNCCC3C(=C21)C=2SC=CC2)C(=O)N | C15H14N4OS2
